Trabalho laboratorial 3

*

*Script simulação NGSPICE

*

***********************************



*Alexandre Couto, 95766

*Bruno Pinto, 95774

*Hugo Aranha, 95796



***********************************

*Descrição circuito


vs 1 0 0 sin(0 14.8 50)

************Envelope detector*********


Dp1 1 2 diode

Dp2 0 2 diode

Dp3 3 0 diode

Dp4 3 1 diode



C1 2 3 15u

**********Voltage regulator*********


R2 23 3 5 12.1k

Ds1 2 4 diode

Ds2 4 5 diode

Ds3 5 6 diode

Ds4 6 7 diode

Ds5 7 8 diode

Ds6 8 9 diode

Ds7 9 10 diode

Ds8 10 11 diode

Ds9 11 12 diode

Ds11 12 13 diode

Ds12 13 14 diode

Ds13 14 15 diode

Ds14 15 16 diode

Ds15 16 17 diode

Ds16 17 18 diode

Ds17 18 19 diode

Ds18 19 20 diode

Ds19 20 21 diode

Ds20 21 22 diode

Ds21 22 23 diode



**************************************


.MODEL diode D

.op 
.end



.control

set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0



tran 1e-4 220e-3 20e-3

*plot v(2)-v(3)

*plot v(2)-v(23)

let v0 = v(2)-v(23)

meas tran average AVG v0 from=20m to=220m

meas tran max MAX v0 from=20m to=220m

meas tran min MIN v0 from=20m to=220m

*plot v0-12


let aux = max - min
let aux1 = abs(average-12)
let aux2 = aux + aux1 + 1e-6
let cost = 2.5+27.1
let merit = 1/(cost*aux2)


let ripple = max - min

echo "table1_TAB"

print average

echo "table1_END"

**************************

echo "table2_TAB"

print max
print min
print ripple

echo "table2_END"

**************************
let output_envelope_detector = v(2)-v(3)

let output_voltage_regulator = v(2)-v(23)

let output_difference = v0-12


hardcopy envdec.ps output_envelope_detector
echo envdec_FIG

hardcopy volreg.ps output_voltage_regulator
echo volreg_FIG

hardcopy final.ps output_difference
echo final_FIG

***************************

echo "table3_TAB"
print cost
print merit

echo "table3_END"

*print aux


quit
.endc

.end


