Trabalho laboratorial 1

*

*Script simulação NGSPICE

*

***********************************



*Alexandre Couto, 95766

*Bruno Pinto, 95774

*Hugo Aranha, 95796



***********************************

*Descrição circuito



.options savecurrents



Va 1 0 5.1951993125      ; Tensão



R1 1 2 1.03055897104k      ; Resistência R1

R2 2 3 2.07633317652k      ; Resistência R2

R3 2 4 3.11228971368k      ; Resistência R3

R4 4 0 4.1814130542k    ; Resistência R4

R5 4 5 3.06747464193k      ; Resistência R5

R6 0 6 2.01035149284k      ; Resistência R6

R7 8 7 1.00587624853k     ; Resistência R7





Id 7 5 1.04139652596m       ; Corrente

Hc 4 7 Vhc 8.02979201109k  ; Kc

Vhc 6 8 0          ; Voltage source que controla a corrente que passa em Hc

Gb 5 3 2 4 7.11172371179m  ; Kb









***********************************

.control


*set hcopypscolor=0

*set color0=white

*set color1=black

*set color2=red

*set color3=blue

*set color4=violet

*set color5=rgb:3/8/0

*set color6=rgb:4/0/0



op



echo "********************************************"

echo  "Estado inicial"

echo "********************************************"

echo "table_TAB"

print all

echo "table_END"

*echo "********************************************"



*echo "********************************************"

*echo  "Análise transitória"

*echo "********************************************"

*tran 1e-5 10e-3



*hardcopy trans.ps v(2) v(4) v(2)-v(4)

*echo trans_FIG



*echo "********************************************"





*plot i(Va)

*plot i(Hc)



*plot v(6)

*plot (v(6)/2.001k) 


quit
.endc

.end
